US09035004B2
1-(4,9-Dimethoxynaphtho[1,2-b:5,6-b′]dithiophen-2-yl)dodecan-1-one (0.70 g, 1.45 mmol), KOH (1.80 g, 32 mmol), and hydrazine monohydride (1.8 mL, 38 mmol) were heated in 2,2′-oxydiethanol (15 mL) at 200° C. under nitrogen overnight. After the mixture was cooled to room temperature, dichloromethane (100 mL) was added and washed with water (4×50 mL). Dried with Na2SO4, and after solvent was removed, 2-dodecyl-4,9-dimethoxynaphtho[1,2-b:5,6-b′]dithiophene was obtained.

reactant | 1-(4,9-Dimethoxynaphtho[1,2-b:5,6-b′]dithiophen-2-yl)dodecan-1-one | 1.45 mmol, 0.70 g | COC1=CC2=C(SC=C2)C=2C(=CC3=C(SC(=C3)C(CCCCCCCCCCC)=O)C12)OC | C28H34O3S2
reactant | KOH | 32 mmol, 1.80 g | [OH-].[K+]
reactant | hydrazine monohydride | 38 mmol, 1.8 mL | [H-].NN
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | 2,2′-oxydiethanol | 15 mL | O(CCO)CCO | C4H10O3
product | 2-dodecyl-4,9-dimethoxynaphtho[1,2-b:5,6-b′]dithiophene | C(CCCCCCCCCCC)C1=CC2=C(S1)C=1C(=CC3=C(SC=C3)C1C(=C2)OC)OC | C28H36O2S2
